US07897619B2
tert-Butyl(S)-1-(4-chlorophenyl)-4-(4-(2-oxo-2,3-dihydrobenzo[d]oxazol-6-yl)-1H-pyrazol-1-yl)butan-2-ylcarbamate:
A mixture of (S)-tert-butyl 4-(4-bromo-1H-pyrazol-1-yl)-1-(4-chlorophenyl)butan-2-ylcarbamate (200 mg, 0.47 mmol), 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]oxazol-2(3H)-one (183 mg, 0.70 mmol), sodium carbonate (148 mg, 1.40 mmol), 2-(dicyclohexylphosphino)-2′-methylbiphenyl (34.0 mg, 0.09 mmol), and bis(dibenzylideneacetone)palladium(0) (42.7 mg, 0.05 mmol) in DME:EtOH:H2O (7:2:3, 4 mL) was heated at 130° C. for 15 minutes in a Biotage Initiators microwave. After cooling to room temperature, the mixture was diluted with saturated aqueous NaHCO3 and extracted with DCM (3×). The combined organic layers were dried over Na2SO4, filtered and concentrated. The material thus obtained was used without further purification.

reactant | (S)-tert-butyl 4-(4-bromo-1H-pyrazol-1-yl)-1-(4-chlorophenyl)butan-2-ylcarbamate | 0.47 mmol, 200 mg | BrC=1C=NN(C1)CC[C@H](CC1=CC=C(C=C1)Cl)NC(OC(C)(C)C)=O | C18H23BrClN3O2
reactant | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]oxazol-2(3H)-one | 0.70 mmol, 183 mg | CC1(OB(OC1(C)C)C1=CC2=C(NC(O2)=O)C=C1)C | C13H16BNO4
reactant | sodium carbonate | 1.40 mmol, 148 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-(dicyclohexylphosphino)-2′-methylbiphenyl | 0.09 mmol, 34.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)C)C1CCCCC1 | C25H33P
solvent | DME EtOH H2O | 4 mL | COCCOC.CCO.O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.05 mmol, 42.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | tert-Butyl(S)-1-(4-chlorophenyl)-4-(4-(2-oxo-2,3-dihydrobenzo[d]oxazol-6-yl)-1H-pyrazol-1-yl)butan-2-ylcarbamate | ClC1=CC=C(C=C1)C[C@@H](CCN1N=CC(=C1)C1=CC2=C(NC(O2)=O)C=C1)NC(OC(C)(C)C)=O | C25H27ClN4O4
